US09315521B2
2-{[(2-chloro-3-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (150 mg, 481 mmol) was dissolved in 1:1 EtOH/DCM (6 mL). Hydrazine hydrate (224 mL, 7.2 mmol) and catalytic amount of Ni-Raney solution in water were added. The mixture was stirred overnight at room temperature. The solid material was filtered on Celite and washed with methanol and ethyl acetate. The filtrate was evaporated. The residue was dissolved in DCM and purified on silica gel using 10% DCM/MeOH to afford 2-{[(3-amino-2-chlorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (10 mg, 7% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.39 (s, 2H), 5.41 (s, 2H), 5.98 (bs, 1H), 6.70-6.75 (m, 2H), 6.95 (t, J=7.7 Hz, 1H); LRMS (ES+) m/z 282 (100%, M+1), 284 (35%, M+3).

reactant | 2-{[(2-chloro-3-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 481 mmol, 150 mg | ClC1=C(C=CC=C1[N+](=O)[O-])CSC1=NC(=CC(=N1)O)C | C12H10ClN3O3S
reactant | Hydrazine hydrate | 7.2 mmol, 224 mL | O.NN
solvent | EtOH DCM | 6 mL | CCO.C(Cl)Cl
solvent | water | O | H2O
catalyst | Ni | [Ni] | Ni
product | 2-{[(3-amino-2-chlorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 10 mg, 7% yield | NC=1C(=C(C=CC1)CSC1=NC(=CC(=N1)O)C)Cl | C12H12ClN3OS
